US08349824B2
c) 2-Methyl-4-(morpholine-4-carbonyl)-2H-pyrazole-3-carboxylic acid {2-[2-(2-fluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-7-yl}-amide
This compound was prepared in analogy to 2-methyl-2H-pyrazole-3,4-dicarboxylic acid 4-dimethylamide 3-({2-[2-(2-fluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-7-yl}-amide) (Example 100) from 2-[2-(2-fluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-7-ylamine 104 mg, 0.38 mmol) and 2-methyl-4-(morpholine-4-carbonyl)-2H-pyrazole-3-carboxylic acid (130 mg, 0.54 mmol). Yield: 76 mg (28%); off-white solid; LC-MS: m/z=494.4 (M+H+).

reactant | 2-[2-(2-fluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-7-ylamine | 0.38 mmol, 104 mg | FCCOC1=C(C=CC=C1)C1=NN2C(C=C(C=C2)N)=N1 | C14H13FN4O
reactant | 2-methyl-4-(morpholine-4-carbonyl)-2H-pyrazole-3-carboxylic acid | 0.54 mmol, 130 mg | CN1N=CC(=C1C(=O)O)C(=O)N1CCOCC1 | C10H13N3O4
product | 2-Methyl-4-(morpholine-4-carbonyl)-2H-pyrazole-3-carboxylic acid {2-[2-(2-fluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-7-yl}-amide | FCCOC1=C(C=CC=C1)C1=NN2C(C=C(C=C2)NC(=O)C=2N(N=CC2C(=O)N2CCOCC2)C)=N1 | C24H24FN7O4
